US07282588B2
a). {3-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanol
The above reaction was repeated two more times with 4-bromo-2-iodo-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine (15 g of a reported 90% pure lot from CiVenti, 29.1 mMol) and 3-(hydroxymethyl)benzeneboronic acid (4.0 g, 26.3 mMol the first time, then 3.7 g, 24.3 mMol the second time). In both reactions dioxane (300 mL), aq. sat. NaHCO3 (75 mL), and (1.0 g, 0.86 mMol) of Pd(PPh3)4 was used. The amount of a bis-coupled side product was reduced from 26% to 15% and 13% respectively (by LCMS) in each of the reactions. All three reaction products (derived from a total of 40 g of 4-bromo-2-iodo-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine, 90% pure lot from CiVenti=36 g, 77.7 mMol) were combined and purified by flash chromatography by silica gel (10 to 15% EtOAc/CH2Cl2) to give the title compound (22.77 g, 66%) as a white solid: MS (ES) m/e 443.2 (M+H)+; 1H NMR (400 MHz, DMSO-d6) δ 8.27 (d, J=5.1 Hz, 1H), 7.85-7.91 (m, 2H), 7.70 (t, J=7.5 Hz, 1H), 7.63 (d, J=5.3 Hz, 1H), 7.59 (app. t, J=7.8 Hz, 2H), 7.53 (s, 1H), 7.44-7.50 (m, 3H), 6.75 (s, 1H), 5.35 (t, J=5.8 Hz, 1H), 4.62 (d, J=5.8 Hz, 2H).

reactant | 4-bromo-2-iodo-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | BrC1=C2C(=NC=C1)N(C(=C2)I)S(=O)(=O)C2=CC=CC=C2 | C13H8BrIN2O2S
reactant | 3-(hydroxymethyl)benzeneboronic acid | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
reactant | 4-bromo-2-iodo-1-phenylsulfonyl-1H-pyrrolo[2,3-b]pyridine | 40 g | BrC1=C2C(=NC=C1)N(C(=C2)I)S(=O)(=O)C2=CC=CC=C2 | C13H8BrIN2O2S
catalyst | Pd(PPh3)4 | 0.86 mMol, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | {3-[4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]phenyl}methanol | 22.77 g, 66% | BrC1=C2C(=NC=C1)N(C(=C2)C=2C=C(C=CC2)CO)S(=O)(=O)C2=CC=CC=C2 | C20H15BrN2O3S
